US04466916
A. Preparation of 3,3,6-trimethyl-2-piperazinone
In a manner analogous to that described in U.S. Pat. No. 2,920,077, 148.3 g (2 moles) of 1,2-diaminopropane and about 500 ml water are placed in a 2-liter 3-necked flask. While stirring, 170.2 g (2moles) of acetone cyanohydrin in 100 ml water are added in 20 min. The reaction is allowed to proceed at 80°-92° C. for 24 hr then water and unreacted materials are removed at 15 mm Hg. The residue, which formed a solid on standing, when dissolved in acetone and recrystallized was found to melt at 115°-117°.

reactant | 1,2-diaminopropane | 2 moles, 148.3 g | NCC(C)N | C3H10N2
reactant | acetone cyanohydrin | 2moles, 170.2 g | CC(C#N)(O)C | C4H7NO
reactant | water | 100 ml | O | H2O
reactant | water | about 500 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3,3,6-trimethyl-2-piperazinone | CC1(C(NC(CN1)C)=O)C | C7H14N2O
